US04465850
By following substantially the procedure in Example 8, Step B, but substituting for (+) 6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one an equimolar quantity of (+) 2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-1H-inden-1-one described therein, there is obtained (+) 4-[(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-oxo-1H-inden-5-yl)oxy]butanoic acid which melts at 139°-139.5° C., [α]D25 +18.4° (C=5, ethanol).

reactant | (+) 6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)O | C15H16Cl2O2
reactant | (+) 2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-1H-inden-1-one | C(CCC)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1CCCC1 | C18H22Cl2O2
reactant | ethanol | C(C)O | C2H6O
product | (+) 4-[(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-oxo-1H-inden-5-yl)oxy]butanoic acid | C(CCC)C1(C(C2=C(C(=C(C=C2C1)OCCCC(=O)O)Cl)Cl)=O)C1CCCC1 | C22H28Cl2O4
